US09376441B2
To a solution of 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)spiro[indoline-3,4′-piperidin]-2-one: 3.78 (94 mg, 0.19 mmol) in DMF was added TEA (117 mg, 1.1 mmol), then followed by the addition of 2,2,2-trifluoroethyl trifluoromethanesulfonate (45 mg, 0.19 mmol). Reaction mixture was stirred at r.t. overnight, and LC-MS showed reaction was complete. The reaction mixture was filtered and purified by prep HPLC (MeCN:water gradient, TFA modified) to provide 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)-1′-(2,2,2-trifluoroethyl)spiro[indoline-3,4′-piperidin]-2-one: 3.80 as its TFA salt.

reactant | 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)spiro[indoline-3,4′-piperidin]-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C1C(=C2)NC(C12CCNCC2)=O)O[C@H](C)[C@H]2CNC(C2)=O | C27H30N6O3
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.19 mmol, 45 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)-1′-(2,2,2-trifluoroethyl)spiro[indoline-3,4′-piperidin]-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C1C(=C2)NC(C12CCN(CC2)CC(F)(F)F)=O)O[C@H](C)[C@H]2CNC(C2)=O | C29H31F3N6O3
